US06794403B2
5-Chloro-2-(4-hydroxyphenyl)-1,3-benzoxazol-6-ol
The title compound was prepared in substantially the same manner as described in Example 16, from 5-chloro-2,4-dimethoxyaniline, and 4-methoxybenzoyl chloride and was obtained as an off-white solid, m.p. 254-256° C.; MS m/e 262 (M+H)+.

reactant | 5-chloro-2,4-dimethoxyaniline | ClC=1C(=CC(=C(N)C1)OC)OC | C8H10ClNO2
reactant | 4-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | 5-Chloro-2-(4-hydroxyphenyl)-1,3-benzoxazol-6-ol | ClC=1C(=CC2=C(N=C(O2)C2=CC=C(C=C2)O)C1)O | C13H8ClNO3
